### PR TITLE
[Merged by Bors] - feat(GroupTheory): add Regular Wreath Product

### PR DESCRIPTION
**Pull request by ciskiko**
feat: add regular wreath product and some results; add iterated wreath product; add the isomorphism of iterated wreath product of Z_p to sylow p subgroup of S_{p^n}.
Needs some work simplifying final result.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 1]
```diff
@@ -0,0 +1,400 @@
...
+
+## Tags
+group, regular wreath product, sylow p-subgroup
+-/
+
+variable (D Q: Type*) [Group D] [Group Q]
+
+/-- The regular wreath product of groups `Q` and `D`.
+    It the product of sets with the group operation
+  `⟨n₁, g₁⟩ * ⟨n₂, g₂⟩ = ⟨n₁ * φ g₁ n₂, g₁ * g₂⟩` -/
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:33]: This sounds like you are just defining the semidirect product. Could you clarify this docstring (and also the module docstring above) that you are taking the product of `Q → D` and `Q`.

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 2]
```diff
@@ -0,0 +1,400 @@
...
+@[ext]
+structure RegularWreathProduct where
+  /-- The function of Q → D -/
+  left : Q → D
+  /-- The element of Q -/
+  right : Q
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:39]: Have you considered defining this from the semidirect product to avoid having to reprove that this is a group?

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 3]
```diff
@@ -0,0 +1,400 @@
...
+theorem card [Finite Q] :
+ Nat.card (D ≀ᵣ Q) = (Nat.card D^Nat.card Q) * Nat.card Q := by
+  rw [Nat.card_congr (equivProd D Q)]
+  rw [Nat.card_prod (Q → D) Q]
+  rw [Nat.card_fun]
+
+/-- Define an isomorphism from `D₁ ≀ᵣ Q₁` to `D₂ ≀ᵣ Q₂`
+given isomorphisms `D₁ ≀ᵣ Q₁` and `Q₁ ≃* Q₂`. -/
+def congr {D₁ Q₁ D₂ Q₂ : Type*} [Group D₁] [Group Q₁] [Group D₂] [Group Q₂]
+(f : D₁ ≃* D₂) (g : Q₁ ≃* Q₂):
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:138]: There are a number of style issues throughout this file. For instance, colons should always have spaces before and after them, and theorem statements should be indented four spaces, whereas proofs should be indented two spaces. Could you fix these issues throughout the file?
```suggestion
    (f : D₁ ≃* D₂) (g : Q₁ ≃* Q₂) :
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 4]
```diff
@@ -0,0 +1,400 @@
...
+instance instSMulRWP : SMul (D ≀ᵣ Q) (Λ × Q) where
+  smul w := fun p => ⟨(w.left (w.right * p.2)) • p.1, w.right * p.2⟩
+
+omit [Nonempty Λ] [Nonempty Q] in
+@[simp]
+lemma rsmul {w: D ≀ᵣ Q} {p : Λ × Q}:
+ w • p = ⟨(w.left (w.right * p.2)) • p.1, w.right * p.2⟩ := rfl
+
+instance instMulActionRWP: MulAction (D ≀ᵣ Q) (Λ × Q) where
+  one_smul := by simp;
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:161]: There are a few places where you have unnecessary semicolons. Can you remove them?
```suggestion
  one_smul := by simp
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 5]
```diff
@@ -0,0 +1,400 @@
...
+  mul_smul := by simp; intro x y a b; constructor
+                 · rw [smul_smul]; group
+                 · exact mul_assoc x.right y.right b
+
+
+variable [FaithfulSMul D Λ]
+instance instFaithfulSMulRWP: FaithfulSMul (D ≀ᵣ Q) (Λ × Q) where
+  eq_of_smul_eq_smul := by
+    simp; intro m₁ m₂ h;
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:170]: Usually we would just put these tactics on separate lines.
```suggestion
    simp
    intro m₁ m₂ h
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 6]
```diff
@@ -0,0 +1,400 @@
...
+theorem iter_wreath_card {p n : ℕ}
+  (G : Type) [Finite G] (h : Nat.card G = p) :
+  Nat.card (IteratedWreathProduct G n) = p ^ (∑ i ∈ Finset.range n, p ^ i) := by
+  induction n with
+  | zero => simp
+  | succ n h_n =>
+    rw [geom_sum_succ, IteratedWreathProduct_succ]
+    rw [RegularWreathProduct.card, h_n, h]; group
+
+lemma mu_eq {p n :ℕ} [Fact (Nat.Prime p)]:
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:234]: Not the most elegant, but here's a golf:
```suggestion
lemma mu_eq {p n : ℕ} [hp : Fact (Nat.Prime p)] :
    (p ^ n).factorial.factorization p = ∑ i ∈ Finset.range n, p ^ i := by
  rw [← Nat.multiplicity_eq_factorization hp.out (p ^ n).factorial_ne_zero, ← ENat.coe_inj,
    ← (Nat.finiteMultiplicity_iff.2
      ⟨hp.out.ne_one, (p ^ n).factorial_pos⟩).emultiplicity_eq_multiplicity]
  induction n with
  | zero => simp [hp.out.emultiplicity_one]
  | succ n h =>
    rw [pow_succ', hp.out.emultiplicity_factorial_mul, h, Finset.sum_range_succ, ENat.coe_add]
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean (hunk 1 above)
Comment (ciskiko) [reply Mathlib/GroupTheory/RegularWreathProduct.lean]: This was indeed a mistake. It has been corrected.

File: Mathlib/GroupTheory/RegularWreathProduct.lean (hunk 2 above)
Comment (ciskiko) [reply Mathlib/GroupTheory/RegularWreathProduct.lean:39]: I initially tried to do it that way. However it led to a problem when defining the IteratedWreathProduct: as the semidirect product is only defined for groups, defining IteratedWreathProduct G (n+1) as IteratedWreathProduct G n wr G didn't work as there was yet no group instance for IteratedWreathProduct.

File: Mathlib/GroupTheory/RegularWreathProduct.lean (hunk 3 above)
Comment (ciskiko) [reply Mathlib/GroupTheory/RegularWreathProduct.lean]: corrected

File: Mathlib/GroupTheory/RegularWreathProduct.lean (hunk 4 above)
Comment (ciskiko) [reply Mathlib/GroupTheory/RegularWreathProduct.lean]: done

File: Mathlib/GroupTheory/RegularWreathProduct.lean (hunk 6 above)
Comment (ciskiko) [reply Mathlib/GroupTheory/RegularWreathProduct.lean]: Changed for your proof. My question now is if all the results from mu_eq to the end should be in only one definition.

File: Mathlib/GroupTheory/RegularWreathProduct.lean (hunk 2 above)
Comment (tb65536) [reply Mathlib/GroupTheory/RegularWreathProduct.lean:39]: But could you keep a definition of `RegularWreathProduct`, but defined as a semidirect product, and then keep your current definition of `IteratedWreathProduct`?

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 7]
```diff
@@ -0,0 +1,298 @@
...
+    (fun k => h.symm.trans (k.trans h))
+    (by intro a b; ext x; simp)
+
+lemma aux_injective {A B : Type} (h : A ≃ B) : Function.Injective (aux h) := by
+  intro x y h_eq; ext a
+  replace h_eq : h.symm.trans (x.trans h) = h.symm.trans (y.trans h) := h_eq
+  have eq_fun := Equiv.ext_iff.mp h_eq
+  specialize eq_fun (h a)
+  simp at eq_fun
+  exact eq_fun
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:257]: Can you upgrade this to a group isomorphism between `Equiv.Perm A` and `Equiv.Perm B`? If mathlib doesn't have this yet, it would be a good addition.

Comment (ciskiko) [reply Mathlib/GroupTheory/RegularWreathProduct.lean]: I changed it. Where should it go: Algebra.Group.End ? And can you suggest what name it should have.

Comment (ciskiko) [reply Mathlib/GroupTheory/RegularWreathProduct.lean]: Should it be Hom even though it is an isomorphism?

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 8]
```diff
@@ -0,0 +1,293 @@
...
+
+import Mathlib.GroupTheory.Sylow
+import Mathlib.Algebra.Group.PUnit
+
+/-!
+# Regular wreath product
+
+This file defines the regular wreath product of groups, and the canonical maps in and out of the
+product. The regular wreath product of `D` and `Q` is the product of sets with the group
+`⟨d₁, q₁⟩ * ⟨d₂, q₂⟩ = ⟨d.1 * (fun x => q.1 (d.2⁻¹ * x)), d.2 * q.2⟩`
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:15]: Can you rewrite this in terms of `d₁, q₁, d₂, q₂`?

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 9]
```diff
@@ -0,0 +1,293 @@
...
+
+## Tags
+group, regular wreath product, sylow p-subgroup
+-/
+
+variable (D Q : Type*) [Group D] [Group Q]
+
+/-- The regular wreath product of groups `Q` and `D`.
+    It the product of sets with the group operation
+  `⟨d₁, q₁⟩ * ⟨d₂, q₂⟩ = ⟨d.1 * (fun x => q.1 (d.2⁻¹ * x)), d.2 * q.2⟩` -/
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:33]: Can you rewrite this in terms of `d₁, q₁, d₂, q₂`?

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 10]
```diff
@@ -0,0 +1,293 @@
...
+/-!
+# Regular wreath product
+
+This file defines the regular wreath product of groups, and the canonical maps in and out of the
+product. The regular wreath product of `D` and `Q` is the product of sets with the group
+`⟨d₁, q₁⟩ * ⟨d₂, q₂⟩ = ⟨d.1 * (fun x => q.1 (d.2⁻¹ * x)), d.2 * q.2⟩`
+
+## Key definitions
+
+There an hom into the regular wreath product `inl : D →* D ≀ᵣ Q`.
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:19]: Can you expand this to include the other homomorphisms, and use the list format that appears in other files? (e.g., see Sylow.lean)

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 11]
```diff
@@ -0,0 +1,293 @@
...
+
+## Notation
+
+This file introduces the global notation `D ≀ᵣ Q` for `RegularWreathProduct D Q`
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:23]:
```suggestion
This file introduces the global notation `D ≀ᵣ Q` for `RegularWreathProduct D Q`.
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 12]
```diff
@@ -0,0 +1,293 @@
...
+-/
+
+import Mathlib.GroupTheory.Sylow
+import Mathlib.Algebra.Group.PUnit
+
+/-!
+# Regular wreath product
+
+This file defines the regular wreath product of groups, and the canonical maps in and out of the
+product. The regular wreath product of `D` and `Q` is the product of sets with the group
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:14]:
```suggestion
product. The regular wreath product of `D` and `Q` is the product `(Q → D) × Q` with the group
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 13]
```diff
@@ -0,0 +1,293 @@
...
+This file introduces the global notation `D ≀ᵣ Q` for `RegularWreathProduct D Q`
+
+## Tags
+group, regular wreath product, sylow p-subgroup
+-/
+
+variable (D Q : Type*) [Group D] [Group Q]
+
+/-- The regular wreath product of groups `Q` and `D`.
+    It the product of sets with the group operation
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:32]:
```suggestion
    It the product `(Q → D) × Q` with the group operation
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean (hunk 2 above)
Comment (tb65536) [reply Mathlib/GroupTheory/RegularWreathProduct.lean:39]: Thanks for clarifying. Maybe this is simplest after all.

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 14]
```diff
@@ -0,0 +1,293 @@
...
+
+@[simp]
+theorem inv_right (a : D ≀ᵣ Q) : a⁻¹.right = a.right⁻¹ := rfl
+
+instance : Group (RegularWreathProduct D Q) where
+  mul_assoc a b c := RegularWreathProduct.ext (by simp [mul_assoc]; rfl) (by simp [mul_assoc])
+  one_mul a := RegularWreathProduct.ext (by simp) (one_mul a.2)
+  mul_one a := RegularWreathProduct.ext (by simp; rfl) (mul_one _)
+  inv_mul_cancel a :=
+    RegularWreathProduct.ext (by simp; exact mul_eq_one_iff_eq_inv.mpr rfl) (by simp)
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:82]:
```suggestion
  mul_assoc a b c := by ext <;> simp [mul_assoc]
  one_mul a := by ext <;> simp
  mul_one a := by ext <;> simp
  inv_mul_cancel a := by ext <;> simp
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 15]
```diff
@@ -0,0 +1,293 @@
...
+  left_inv := fun _ => rfl
+  right_inv := fun _ => rfl
+
+omit [Group D] [Group Q] in
+lemma equivProdInj : Function.Injective (equivProd D Q).toFun := by
+  intro a b; simp
+
+instance [Finite D] [Finite Q] : Finite (D ≀ᵣ Q) := by
+  apply (Equiv.finite_iff (equivProd D Q)).mpr
+  apply Finite.instProd
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:126]:
```suggestion
instance [Finite D] [Finite Q] : Finite (D ≀ᵣ Q) :=
  Finite.of_equiv _ (equivProd D Q).symm
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 16]
```diff
@@ -0,0 +1,293 @@
...
+
+omit [Group D] [Group Q] in
+theorem card [Finite Q] :
+   Nat.card (D ≀ᵣ Q) = (Nat.card D^Nat.card Q) * Nat.card Q := by
+  rw [Nat.card_congr (equivProd D Q)]
+  rw [Nat.card_prod (Q → D) Q]
+  rw [Nat.card_fun]
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:133]:
```suggestion
theorem card [Finite Q] : Nat.card (D ≀ᵣ Q) = Nat.card D ^ Nat.card Q * Nat.card Q := by
  rw [Nat.card_congr (equivProd D Q), Nat.card_prod (Q → D) Q, Nat.card_fun]
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 17]
```diff
@@ -0,0 +1,293 @@
...
+      invFun x := ⟨(f.symm ∘ x.left) ∘ g, g.symm x.right⟩
+      left_inv x := by ext <;> simp
+      right_inv x := by ext <;> simp
+      map_mul' x y := by ext <;> simp
+
+section perm
+
+variable (D : Type*) [Group D]
+variable (Q : Type*) [Group Q] [Nonempty Q]
+variable (Λ : Type*) [Nonempty Λ] [MulAction D Λ]
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:150]: Personally, I would just manually add the nonempty assumptions on the relevant lemmas.
```suggestion
variable (D Q Λ : Type*) [Group D] [Group Q] [MulAction D Λ]
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 18]
```diff
@@ -0,0 +1,293 @@
...
+@[simp]
+lemma rsmul {w : D ≀ᵣ Q} {p : Λ × Q} :
+    w • p = ⟨(w.left (w.right * p.2)) • p.1, w.right * p.2⟩ := rfl
+
+instance instMulActionRWP : MulAction (D ≀ᵣ Q) (Λ × Q) where
+  one_smul := by simp
+  mul_smul := by simp; intro x y a b; constructor
+                 · rw [smul_smul]; group
+                 · exact mul_assoc x.right y.right b
+
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:165]:
```suggestion
  mul_smul := by by simp [smul_smul, mul_assoc]
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 19]
```diff
@@ -0,0 +1,293 @@
...
+
+variable [FaithfulSMul D Λ]
+instance instFaithfulSMulRWP : FaithfulSMul (D ≀ᵣ Q) (Λ × Q) where
+  eq_of_smul_eq_smul := by
+    simp
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:170]: We discourage `simp` in the middle of a proof since if the simp-set is changed, then the proof can break unexpectedly. Instead, squeeze this simp:
```suggestion
    simp only [rsmul, Prod.mk.injEq, mul_left_inj, Prod.forall]
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 20]
```diff
@@ -0,0 +1,293 @@
...
+    intro m₁ m₂ h
+    let ⟨a⟩ := ‹Nonempty Λ›
+    let ⟨b⟩ := ‹Nonempty Q›
+    ext q
+    · have hh := fun a => (h a (m₁.right⁻¹ * q)).1
+      rw [← (h a b).2] at hh
+      group at hh
+      apply FaithfulSMul.eq_of_smul_eq_smul at hh
+      exact hh
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:179]:
```suggestion
      exact FaithfulSMul.eq_of_smul_eq_smul hh
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 21]
```diff
@@ -0,0 +1,293 @@
...
+
+end perm
+
+end RegularWreathProduct
+
+
+section iterated
+
+/-- The wreath product of group `G` iterated `n` times. -/
+def IteratedWreathProduct (G : Type) : (n : ℕ) → Type
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:198]: Can you generalize this section to arbitrary universes?
```suggestion
universe u

/-- The wreath product of group `G` iterated `n` times. -/
def IteratedWreathProduct (G : Type u) : (n : ℕ) → Type u
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 22]
```diff
@@ -0,0 +1,293 @@
...
+@[simp]
+lemma IteratedWreathProduct_zero (G : Type) :
+    IteratedWreathProduct G 0 = PUnit := rfl
+
+@[simp]
+lemma IteratedWreathProduct_succ (G : Type)(n : ℕ) :
+    IteratedWreathProduct G (n+1) = (IteratedWreathProduct G n) ≀ᵣ G := rfl
+
+variable (G : Type) [inst : Group G]
+variable (n : ℕ)
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:211]: The variables for `G` and `n` might as well come earlier.

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 23]
```diff
@@ -0,0 +1,293 @@
...
+/-- If `α` is equivalent to `β`, then `Perm α` is isomorphic to `Perm β`. -/
+def Equiv.permCongrHom {α β : Type} (e : α ≃ β) : Equiv.Perm α ≃* Equiv.Perm β where
+  toFun x := e.symm.trans (x.trans e)
+  invFun y := e.trans (y.trans e.symm)
+  left_inv _ := by ext; simp
+  right_inv _ := by ext; simp
+  map_mul' _ _ := by ext; simp
+
+/-- An auxilliary function -/
+noncomputable def f {p n : ℕ} (D : Sylow p (Equiv.Perm (Fin (p^n))))
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:254]: This should either be private or given a more descriptive name (and likewise for some of the other declarations in this section).

File: Mathlib/GroupTheory/RegularWreathProduct.lean (hunk 10 above)
Comment (ciskiko) [reply Mathlib/GroupTheory/RegularWreathProduct.lean]: I added some results. Is it okay or is it too long?

File: Mathlib/GroupTheory/RegularWreathProduct.lean (hunk 23 above)
Comment (ciskiko) [reply Mathlib/GroupTheory/RegularWreathProduct.lean]: I changed the name of f and f_injective.

Comment (ciskiko) [reply Mathlib/GroupTheory/RegularWreathProduct.lean]: But probably `mu_eq` shouldn't be in this file.

File: Mathlib/GroupTheory/RegularWreathProduct.lean (hunk 7 above)
Comment (tb65536) [reply Mathlib/GroupTheory/RegularWreathProduct.lean]: Hmmm, not sure. Usually the word `congr` already tells you that you are going from an equivalence to an equivalence, but I see your point.

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 24]
```diff
@@ -0,0 +1,293 @@
...
+
+import Mathlib.GroupTheory.Sylow
+import Mathlib.Algebra.Group.PUnit
+
+/-!
+# Regular wreath product
+
+This file defines the regular wreath product of groups, and the canonical maps in and out of the
+product. The regular wreath product of `D` and `Q` is the product `(Q → D) × Q` with the group
+`⟨a₁, a₂⟩ * ⟨b₁, b₂⟩ = ⟨a₁ * (fun x => b₁ (a₂⁻¹ * x)), a₂ * b₂⟩`
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:15]:
```suggestion
`⟨a₁, a₂⟩ * ⟨b₁, b₂⟩ = ⟨a₁ * (fun x => b₁ (a₂⁻¹ * x)), a₂ * b₂⟩`.
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 25]
```diff
@@ -0,0 +1,293 @@
...
+
+## Main definitions
+
+* `D ≀ᵣ Q` : The regular wreath product of groups `D` and `Q`.
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:19]:
```suggestion
* `RegularWreathProduct D Q` : The regular wreath product of groups `D` and `Q`.
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 26]
```diff
@@ -0,0 +1,293 @@
...
+
+## Tags
+group, regular wreath product, sylow p-subgroup
+-/
+
+variable (D Q : Type*) [Group D] [Group Q]
+
+/-- The regular wreath product of groups `Q` and `D`.
+    It the product `(Q → D) × Q` with the group operation
+  `⟨a₁, a₂⟩ * ⟨b₁, b₂⟩ = ⟨a₁ * (fun x => b₁ (a₂⁻¹ * x)), a₂ * b₂⟩` -/
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:39]:
```suggestion
/-- The regular wreath product of groups `Q` and `D`. It the product `(Q → D) × Q` with the group
operation `⟨a₁, a₂⟩ * ⟨b₁, b₂⟩ = ⟨a₁ * (fun x => b₁ (a₂⁻¹ * x)), a₂ * b₂⟩`. -/
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 27]
```diff
@@ -0,0 +1,293 @@
...
+@[ext]
+structure RegularWreathProduct where
+  /-- The function of Q → D -/
+  left : Q → D
+  /-- The element of Q -/
+  right : Q
+
+@[inherit_doc] infix:65  " ≀ᵣ " => RegularWreathProduct
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:47]:
```suggestion
@[inherit_doc] infix:65 " ≀ᵣ " => RegularWreathProduct
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 28]
```diff
@@ -0,0 +1,293 @@
...
+
+namespace RegularWreathProduct
+variable {D Q}
+
+instance : Mul (RegularWreathProduct D Q) where
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:52]:
```suggestion
instance : Mul (D ≀ᵣ Q) where
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 29]
```diff
@@ -0,0 +1,293 @@
...
+  mul a b := ⟨a.1 * (fun x => b.1 (a.2⁻¹ * x)), a.2 * b.2⟩
+
+lemma mul_def (a b : RegularWreathProduct D Q) :
+    a * b = ⟨a.1 * (fun x => b.1 (a.2⁻¹ * x)), a.2 * b.2⟩ := rfl
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:56]:
```suggestion
lemma mul_def (a b : D ≀ᵣ Q) : a * b = ⟨a.1 * (fun x ↦ b.1 (a.2⁻¹ * x)), a.2 * b.2⟩ := rfl
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 30]
```diff
@@ -0,0 +1,293 @@
...
+
+@[simp]
+theorem mul_left (a b : D ≀ᵣ Q) :
+    (a * b).left = a.left * (((fun x => b.left (a.right⁻¹ * x)))) := rfl
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:60]:
```suggestion
@[simp]
theorem mul_left (a b : D ≀ᵣ Q) : (a * b).1 = a.1 * (((fun x => b.1 (a.2⁻¹ * x)))) := rfl
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 31]
```diff
@@ -0,0 +1,293 @@
...
+/-- Define an isomorphism from `D₁ ≀ᵣ Q₁` to `D₂ ≀ᵣ Q₂`
+given isomorphisms `D₁ ≀ᵣ Q₁` and `Q₁ ≃* Q₂`. -/
+def congr {D₁ Q₁ D₂ Q₂ : Type*} [Group D₁] [Group Q₁] [Group D₂] [Group Q₂]
+    (f : D₁ ≃* D₂) (g : Q₁ ≃* Q₂) :
+    D₁ ≀ᵣ Q₁ ≃* D₂ ≀ᵣ Q₂ where
+      toFun x := ⟨f ∘ (x.left ∘ g.symm), g x.right⟩
+      invFun x := ⟨(f.symm ∘ x.left) ∘ g, g.symm x.right⟩
+      left_inv x := by ext <;> simp
+      right_inv x := by ext <;> simp
+      map_mul' x y := by ext <;> simp
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:145]:
```suggestion
  toFun x := ⟨f ∘ (x.left ∘ g.symm), g x.right⟩
  invFun x := ⟨(f.symm ∘ x.left) ∘ g, g.symm x.right⟩
  left_inv x := by ext <;> simp
  right_inv x := by ext <;> simp
  map_mul' x y := by ext <;> simp
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 32]
```diff
@@ -0,0 +1,293 @@
...
+
+section perm
+
+variable (D Q Λ : Type*) [Group D] [Group Q] [MulAction D Λ]
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:149]:
```suggestion
variable (D Q) (Λ : Type*) [MulAction D Λ]
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 33]
```diff
@@ -0,0 +1,293 @@
...
+
+instance instSMulRWP : SMul (D ≀ᵣ Q) (Λ × Q) where
+  smul w := fun p => ⟨(w.left (w.right * p.2)) • p.1, w.right * p.2⟩
+
+@[simp]
+lemma rsmul {w : D ≀ᵣ Q} {p : Λ × Q} :
+    w • p = ⟨(w.left (w.right * p.2)) • p.1, w.right * p.2⟩ := rfl
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:156]:
```suggestion
lemma rsmul {w : D ≀ᵣ Q} {p : Λ × Q} : w • p = ⟨(w.1 (w.2 * p.2)) • p.1, w.2 * p.2⟩ := rfl
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 34]
```diff
@@ -0,0 +1,293 @@
...
+      exact FaithfulSMul.eq_of_smul_eq_smul hh
+    · exact (h a b).2
+
+/-- The map sending the wreath product `D ≀ᵣ Q` to its representation as a permutation of `Λ × Q`
+given `D`-set `Λ`. -/
+def toPerm : D ≀ᵣ Q →* Equiv.Perm (Λ × Q) :=
+  MulAction.toPermHom (D ≀ᵣ Q) (Λ × Q)
+
+theorem toPermInj [Nonempty Λ] :
+  Function.Injective (toPerm D Q Λ) := MulAction.toPerm_injective
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:182]:
```suggestion
theorem toPermInj [Nonempty Λ] : Function.Injective (toPerm D Q Λ) := MulAction.toPerm_injective
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 35]
```diff
@@ -0,0 +1,293 @@
...
+
+end perm
+
+end RegularWreathProduct
+
+
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:188]:
```suggestion

```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 36]
```diff
@@ -0,0 +1,293 @@
...
+section iterated
+
+universe u
+
+/-- The wreath product of group `G` iterated `n` times. -/
+def IteratedWreathProduct (G : Type u) : (n : ℕ) → Type u
+| Nat.zero => PUnit
+| Nat.succ n => (IteratedWreathProduct G n) ≀ᵣ G
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:196]:
```suggestion
| 0 => PUnit
| n + 1 => (IteratedWreathProduct G n) ≀ᵣ G
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 37]
```diff
@@ -0,0 +1,293 @@
...
+
+variable (G : Type u) [inst : Group G]
+variable (n : ℕ)
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:199]:
```suggestion
variable (G : Type u) (n : ℕ)
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 38]
```diff
@@ -0,0 +1,293 @@
...
+/-- The Sylow `p`-subgroups of S_{p^n} are isomorphic to the iterated wreathproduct -/
+noncomputable def sylowIsIteratedWreathProduct (p n : ℕ) [Fact (Nat.Prime p)]
+    (Z_p : Type) [Group Z_p] [Finite Z_p] (h : Nat.card Z_p = p)
+    (P : Sylow p (Equiv.Perm (Fin (p^n)))) :
+    P ≃* (IteratedWreathProduct Z_p n) := by
+  induction n with
+  | zero => exact {
+      toFun := 1
+      invFun := 1
+      left_inv x := by rw [Pi.one_apply, elem_P0 p P x]
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:277]: This should allow you to get rid of `elem_P0`
```suggestion
      left_inv x := by simp only [Nat.pow_zero]; apply Subsingleton.elim
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 39]
```diff
@@ -0,0 +1,293 @@
...
+    x = 1 := Subsingleton.eq_one x
+
+theorem iter_wreath_card {p n : ℕ}
+    (G : Type u) [Finite G] (h : Nat.card G = p) :
+    Nat.card (IteratedWreathProduct G n) = p ^ (∑ i ∈ Finset.range n, p ^ i) := by
+  induction n with
+  | zero => simp
+  | succ n h_n =>
+    rw [geom_sum_succ, IteratedWreathProduct_succ]
+    rw [RegularWreathProduct.card, h_n, h]; group
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:229]: I would suggest waiting to assume `[Group G]` until after the other lemmas.
```suggestion
@[simp]
lemma IteratedWreathProduct_zero : IteratedWreathProduct G 0 = PUnit := rfl

@[simp]
lemma IteratedWreathProduct_succ :
    IteratedWreathProduct G (n + 1) = (IteratedWreathProduct G n) ≀ᵣ G := rfl

instance [Finite G] : Finite (IteratedWreathProduct G n) := by
  induction n with
  | zero => rw [IteratedWreathProduct_zero]; infer_instance
  | succ n h => rw [IteratedWreathProduct_succ]; infer_instance

theorem iter_wreath_card [Finite G] : Nat.card (IteratedWreathProduct G n) =
    Nat.card G ^ (∑ i ∈ Finset.range n, Nat.card G ^ i) := by
  induction n with
  | zero => simp
  | succ n h => rw [IteratedWreathProduct_succ, RegularWreathProduct.card,
      h, geom_sum_succ, pow_succ, pow_mul']

variable [Group G]

instance : Group (IteratedWreathProduct G n) := by
 induction n with
 | zero => rw [IteratedWreathProduct_zero]; infer_instance
 | succ n ih => rw [IteratedWreathProduct_succ]; infer_instance
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 40]
```diff
@@ -0,0 +1,281 @@
...
+      have g : (IteratedWreathProduct Z_p (n + 1)) ≃*
+          MonoidHom.range (sylowWreathtoPermHom P' Z_p h) :=
+        (RegularWreathProduct.congr (h_n P').symm (MulEquiv.refl Z_p)).trans
+        (MonoidHom.ofInjective (sylowWreathtoPermHomInj P' Z_p h))
+      have sylow_card : Nat.card (MonoidHom.range (sylowWreathtoPermHom P' Z_p h)) =
+          p ^ (Nat.card (Equiv.Perm (Fin (p ^ (n + 1))))).factorization p := by
+        rw [Nat.card_congr (g.symm).toEquiv, iter_wreath_card Z_p, h]
+        rw [Nat.card_eq_fintype_card, Fintype.card_perm, Fintype.card_fin, mu_eq]
+      exact (P.equiv (Sylow.ofCard (MonoidHom.range (sylowWreathtoPermHom P' Z_p h))
+      sylow_card)).trans (id g.symm)
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:279]: What about something like this? It's slightly shorter, and generalized the iterated wreath product embedding to arbitrary groups.
```suggestion
def Fin.succFunEquiv (α : Type*) (n : ℕ) : (Fin (n + 1) → α) ≃ (Fin n → α) × α :=
  (Fin.appendEquiv n 1).symm.trans (Equiv.prodCongrRight fun _ ↦ Equiv.funUnique (Fin 1) α)

lemma Nat.card_fin (n : ℕ) : Nat.card (Fin n) = n := by
  rw [Nat.card_eq_fintype_card, Fintype.card_fin]

def iteratedWreathToPermHom (G : Type*) [Group G] :
    (n : ℕ) → (IteratedWreathProduct G n →* Equiv.Perm (Fin n → G))
  | 0 => 1
  | n + 1 => by
      let _ := MulAction.compHom (Fin n → G) (iteratedWreathToPermHom G n)
      exact (Fin.succFunEquiv G n).symm.permCongrHom.toMonoidHom.comp
        (RegularWreathProduct.toPerm (IteratedWreathProduct G n) G (Fin n → G))

lemma iteratedWreathToPermHomInj (G : Type*) [Group G] :
    (n : ℕ) → Function.Injective (iteratedWreathToPermHom G n)
  | 0 => by
      simp only [IteratedWreathProduct_zero]
      apply Function.injective_of_subsingleton
  | n + 1 => by
      let _ := MulAction.compHom (Fin n → G) (iteratedWreathToPermHom G n)
      have : FaithfulSMul (IteratedWreathProduct G n) (Fin n → G) :=
        ⟨fun h ↦ iteratedWreathToPermHomInj G n (Equiv.ext h)⟩
      exact ((Fin.succFunEquiv G n).symm.permCongrHom.toEquiv.comp_injective _).mpr
        (RegularWreathProduct.toPermInj (IteratedWreathProduct G n) G (Fin n → G))

noncomputable def sylowIsIteratedWreathProduct (p : ℕ) [Fact (Nat.Prime p)] (n : ℕ)
    (α : Type*) [Finite α] (hα : Nat.card α = p ^ n)
    (G : Type*) [Group G] [Finite G] (hG : Nat.card G = p)
    (P : Sylow p (Equiv.Perm α)) :
    P ≃* IteratedWreathProduct G n := by
  let e1 : α ≃ (Fin n → G) := (Finite.equivFinOfCardEq hα).trans
    (Finite.equivFinOfCardEq (by rw [Nat.card_fun, Nat.card_fin, hG])).symm
  let f := (Equiv.permCongrHom e1.symm).toMonoidHom.comp (iteratedWreathToPermHom G n)
  have hf : Function.Injective f :=
    ((Equiv.permCongrHom e1.symm).comp_injective _).mpr (iteratedWreathToPermHomInj G n)
  let g := (MonoidHom.ofInjective hf).symm
  let P' : Sylow p (Equiv.Perm α) := Sylow.ofCard (MonoidHom.range f) (by
    rw [Nat.card_congr g.toEquiv, iter_wreath_card, hG, Nat.card_perm, hα, mu_eq])
  exact (P.equiv P').trans g
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 41]
```diff
@@ -0,0 +1,301 @@
...
+import Mathlib.GroupTheory.Sylow
+import Mathlib.Algebra.Group.PUnit
+import Mathlib.Data.Finite.Perm
+
+/-!
+# Regular wreath product
+
+This file defines the regular wreath product of groups, and the canonical maps in and out of the
+product. The regular wreath product of `D` and `Q` is the product `(Q → D) × Q` with the group
+`⟨a₁, a₂⟩ * ⟨b₁, b₂⟩ = ⟨a₁ * (fun x => b₁ (a₂⁻¹ * x)), a₂ * b₂⟩`.
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:16]:
```suggestion
operation `⟨a₁, a₂⟩ * ⟨b₁, b₂⟩ = ⟨a₁ * (fun x => b₁ (a₂⁻¹ * x)), a₂ * b₂⟩`.
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 42]
```diff
@@ -0,0 +1,301 @@
...
+
+@[inherit_doc] infix:65 " ≀ᵣ " => RegularWreathProduct
+
+namespace RegularWreathProduct
+variable {D Q}
+
+instance : Mul (D ≀ᵣ Q) where
+  mul a b := ⟨a.1 * (fun x => b.1 (a.2⁻¹ * x)), a.2 * b.2⟩
+
+lemma mul_def (a b : D ≀ᵣ Q) : a * b = ⟨a.1 * (fun x ↦ b.1 (a.2⁻¹ * x)), a.2 * b.2⟩ := rfl
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:55]:
```suggestion
lemma mul_def (a b : D ≀ᵣ Q) : a * b = ⟨a.1 * fun x ↦ b.1 (a.2⁻¹ * x), a.2 * b.2⟩ := rfl
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 43]
```diff
@@ -0,0 +1,301 @@
...
+
+@[simp]
+theorem mul_left (a b : D ≀ᵣ Q) : (a * b).1 = a.1 * (((fun x => b.1 (a.2⁻¹ * x)))) := rfl
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:58]:
```suggestion
theorem mul_left (a b : D ≀ᵣ Q) : (a * b).1 = a.1 * fun x => b.1 (a.2⁻¹ * x) := rfl
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 44]
```diff
@@ -0,0 +1,301 @@
...
+instance : One (RegularWreathProduct D Q) where one := ⟨1, 1⟩
+
+@[simp]
+theorem one_left : (1 : D ≀ᵣ Q).left = 1 := rfl
+
+@[simp]
+theorem one_right : (1 : D ≀ᵣ Q).right = 1 := rfl
+
+instance : Inv (RegularWreathProduct D Q) where
+  inv x := ⟨((fun k => x.1⁻¹ (x.2 * k))), x.2⁻¹⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:72]:
```suggestion
  inv x := ⟨fun k => x.1⁻¹ (x.2 * k), x.2⁻¹⟩
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 45]
```diff
@@ -0,0 +1,301 @@
...
+  invFun x := ⟨(f.symm ∘ x.left) ∘ g, g.symm x.right⟩
+  left_inv x := by ext <;> simp
+  right_inv x := by ext <;> simp
+  map_mul' x y := by ext <;> simp
+
+section perm
+
+variable (D Q) (Λ : Type*) [MulAction D Λ]
+
+instance instSMulRWP : SMul (D ≀ᵣ Q) (Λ × Q) where
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:149]: I suggest either giving this a more descriptive name or dropping the name altogether.

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 46]
```diff
@@ -0,0 +1,301 @@
...
+  smul w := fun p => ⟨(w.left (w.right * p.2)) • p.1, w.right * p.2⟩
+
+@[simp]
+lemma rsmul {w : D ≀ᵣ Q} {p : Λ × Q} : w • p = ⟨(w.1 (w.2 * p.2)) • p.1, w.2 * p.2⟩ := rfl
+
+instance instMulActionRWP : MulAction (D ≀ᵣ Q) (Λ × Q) where
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:155]: Likewise.

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 47]
```diff
@@ -0,0 +1,301 @@
...
+  one_smul := by simp
+  mul_smul := by simp [smul_smul, mul_assoc]
+
+variable [FaithfulSMul D Λ]
+instance instFaithfulSMulRWP [Nonempty Q] [Nonempty Λ] : FaithfulSMul (D ≀ᵣ Q) (Λ × Q) where
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:160]: Likewise.

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 48]
```diff
@@ -0,0 +1,301 @@
...
+
+section perm
+
+variable (D Q) (Λ : Type*) [MulAction D Λ]
+
+instance instSMulRWP : SMul (D ≀ᵣ Q) (Λ × Q) where
+  smul w := fun p => ⟨(w.left (w.right * p.2)) • p.1, w.right * p.2⟩
+
+@[simp]
+lemma rsmul {w : D ≀ᵣ Q} {p : Λ × Q} : w • p = ⟨(w.1 (w.2 * p.2)) • p.1, w.2 * p.2⟩ := rfl
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:153]: Maybe `smul_def` would be a better name?

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 49]
```diff
@@ -0,0 +1,301 @@
...
+given `D`-set `Λ`. -/
+def toPerm : D ≀ᵣ Q →* Equiv.Perm (Λ × Q) :=
+  MulAction.toPermHom (D ≀ᵣ Q) (Λ × Q)
+
+theorem toPermInj [Nonempty Λ] : Function.Injective (toPerm D Q Λ) := MulAction.toPerm_injective
+
+end perm
+
+end RegularWreathProduct
+section iterated
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:183]:
```suggestion
end RegularWreathProduct

section iterated
```

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 50]
```diff
@@ -0,0 +1,301 @@
...
+
+lemma sylowWreathtoPermHomInj {p n : ℕ} [Fact (Nat.Prime p)]
+    (D : Sylow p (Equiv.Perm (Fin (p ^ n))))
+    (G : Type) [Finite G] [Group G] (h : Nat.card G = p) :
+    Function.Injective (sylowWreathtoPermHom D G h) := by
+  have : Function.Injective (RegularWreathProduct.toPerm D G (Fin (p ^ n))) :=
+    RegularWreathProduct.toPermInj D G (Fin (p ^ n))
+  exact (fun a b => Function.Injective.comp a b)
+    (Equiv.permCongrHom (((Equiv.prodCongrRight fun _ =>
+    (Finite.equivFinOfCardEq h)).trans finProdFinEquiv))).injective this
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:255]: You can get rid of these now.

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 51]
```diff
@@ -0,0 +1,301 @@
...
+
+/-- `Fin (n + 1) → α` and `(Fin n → α) × α` are equivalent. -/
+def Fin.succFunEquiv (α : Type*) (n : ℕ) : (Fin (n + 1) → α) ≃ (Fin n → α) × α :=
+  (Fin.appendEquiv n 1).symm.trans (Equiv.prodCongrRight fun _ ↦ Equiv.funUnique (Fin 1) α)
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:259]: Can you move this lemma to `Mathlib.Logic.Equiv.Fin.Basic` (I think that's the best spot).

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 52]
```diff
@@ -0,0 +1,301 @@
...
+
+lemma Nat.card_fin (n : ℕ) : Nat.card (Fin n) = n := by
+  rw [Nat.card_eq_fintype_card, Fintype.card_fin]
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:262]: Can you move this lemma to `Mathlib.SetTheory.Cardinal.Finite` (I think that's the best spot).

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 53]
```diff
@@ -0,0 +1,301 @@
...
+  | succ n h =>
+    rw [pow_succ', hp.out.emultiplicity_factorial_mul, h, Finset.sum_range_succ, ENat.coe_add]
+
+/-- If `α` is equivalent to `β`, then `Perm α` is isomorphic to `Perm β`. -/
+def Equiv.permCongrHom {α β : Type*} (e : α ≃ β) : Equiv.Perm α ≃* Equiv.Perm β where
+  toFun x := e.symm.trans (x.trans e)
+  invFun y := e.trans (y.trans e.symm)
+  left_inv _ := by ext; simp
+  right_inv _ := by ext; simp
+  map_mul' _ _ := by ext; simp
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:236]: Can find a better home for this definition? (Maybe `Mathlib.Algebra.Group.End` where the group structure on `Equiv.Perm` is defined?)

File: Mathlib/GroupTheory/RegularWreathProduct.lean (hunk 52 above)
Comment (ciskiko) [reply Mathlib/GroupTheory/RegularWreathProduct.lean]: I changed its name to `Nat.fin_card` since it lead to ambiguity with `Finset.card_fin` in some files. Is this a good name?

Comment (tb65536) [reply Mathlib/GroupTheory/RegularWreathProduct.lean]: I think `Nat.card_fin` is the right name, so you'll need to resolve the conflicts by adding `Finset.` where necessary.

Comment (ciskiko) [reply Mathlib/GroupTheory/RegularWreathProduct.lean]: OK. I added it. The problem was only in one file. I wasn't sure I should change it.

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 54]
```diff
@@ -0,0 +1,269 @@
...
+  /-- The element of Q -/
+  right : Q
+
+@[inherit_doc] infix:65 " ≀ᵣ " => RegularWreathProduct
+
+namespace RegularWreathProduct
+variable {D Q}
+
+instance : Mul (D ≀ᵣ Q) where
+  mul a b := ⟨a.1 * (fun x => b.1 (a.2⁻¹ * x)), a.2 * b.2⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/RegularWreathProduct.lean:54]:
```suggestion
  mul a b := ⟨a.1 * (fun x ↦ b.1 (a.2⁻¹ * x)), a.2 * b.2⟩
```

**Review by tb65536 — COMMENTED** [review]
Getting close, although we'll still need to sort out `mu_eq`.

File: Mathlib/SetTheory/Cardinal/Finite.lean [hunk 55]
```diff
@@ -128,6 +128,9 @@ theorem _root_.Function.Surjective.bijective_of_nat_card_le [Finite α] {f : α
 theorem card_eq_of_equiv_fin {α : Type*} {n : ℕ} (f : α ≃ Fin n) : Nat.card α = n := by
   simpa only [card_eq_fintype_card, Fintype.card_fin] using card_congr f
 
+lemma card_fin (n : ℕ) : Nat.card (Fin n) = n := by
```
[the remark this answers is not in the document]
Comment (ciskiko) [reply Mathlib/SetTheory/Cardinal/Finite.lean:131]: By adding that, there was this error: SOME SIMP LEMMAS ARE NOT IN SIMP-NORMAL FORM. What does this mean?

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 56]
```diff
@@ -0,0 +1,269 @@
...
+  left_inv x := by ext <;> simp
+  right_inv x := by ext <;> simp
+  map_mul' x y := by ext <;> simp
+
+section perm
+
+variable (D Q) (Λ : Type*) [MulAction D Λ]
+
+instance : SMul (D ≀ᵣ Q) (Λ × Q) where
+  smul w := fun p => ⟨(w.left (w.right * p.2)) • p.1, w.right * p.2⟩
```
[the remark this answers is not in the document]
Comment (ciskiko) [reply Mathlib/GroupTheory/RegularWreathProduct.lean]: Yes.

File: Mathlib/Logic/Equiv/Fin/Basic.lean [hunk 57]
```diff
@@ -360,3 +360,7 @@ def Fin.appendEquiv {α : Type*} (m n : ℕ) :
   invFun f := ⟨fun i ↦ f (Fin.castAdd n i), fun i ↦ f (Fin.natAdd m i)⟩
   left_inv fg := by simp
   right_inv f := by simp [Fin.append_castAdd_natAdd]
+
+/-- `Fin (n + 1) → α` and `(Fin n → α) × α` are equivalent. -/
+def Fin.succFunEquiv (α : Type*) (n : ℕ) : (Fin (n + 1) → α) ≃ (Fin n → α) × α :=
```
[the remark this answers is not in the document]
Comment (ciskiko) [reply Mathlib/Logic/Equiv/Fin/Basic.lean:366]: There was a message to change it to `[simps!]`. Is it ok?

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 58]
```diff
@@ -0,0 +1,264 @@
...
+      h, geom_sum_succ, pow_succ, pow_mul']
+
+variable [Group G]
+
+instance : Group (IteratedWreathProduct G n) := by
+ induction n with
+ | zero => rw [IteratedWreathProduct_zero]; infer_instance
+ | succ n ih => rw [IteratedWreathProduct_succ]; infer_instance
+
+lemma mu_eq {p n : ℕ} [hp : Fact (Nat.Prime p)] :
```
[the remark this answers is not in the document]
Comment (ciskiko) [reply Mathlib/GroupTheory/RegularWreathProduct.lean]: I changed it and put it in `Data/Nat/Multiplicity`. Is this ok?

**Comment by tb65536** [comment]
maintainer merge

File: Mathlib/GroupTheory/RegularWreathProduct.lean [hunk 59]
```diff
@@ -0,0 +1,256 @@
...
+
+This file introduces the global notation `D ≀ᵣ Q` for `RegularWreathProduct D Q`.
+
+## Tags
+group, regular wreath product, sylow p-subgroup
+-/
+
+variable (D Q : Type*) [Group D] [Group Q]
+
+/-- The regular wreath product of groups `Q` and `D`. It the product `(Q → D) × Q` with the group
```
Comment (jcommelin) [inline Mathlib/GroupTheory/RegularWreathProduct.lean]:
```suggestion
/-- The regular wreath product of groups `Q` and `D`. It is the product `(Q → D) × Q` with the group
```

**Review by jcommelin — COMMENTED** [review]
bors d+
